US04997737
For example, fluorene can be reacted with 2,4,6-triisopropylbenzenesulfonyl chloride in the presence of aluminum chloride to yield 2-(2,4,6-triisopropylphenylsulfonyl)fluorene, which can be refluxed with sodium dichromate dihydrate in glacial acetic acid to yield 2-(2,4,6-triisopropylphenylsulfonyl)fluorenone, which in turn can be refluxed with malononitrile in methanol in the presence of piperidine to yield 2-(2,4,6-triisopropylphenylsulfonyl)-9-(dicyanomethylene)fluorene.

reactant | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | 2,4,6-triisopropylbenzenesulfonyl chloride | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-(2,4,6-triisopropylphenylsulfonyl)fluorene | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C28H32O2S
